US04567172
11β-Hydroxy-21-methoxyacetoxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione
In 4 ml of methylene chloride was dissolved 180 mg of 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione obtained according to the method as described in Exampel 42. To this solution were added methoxyacetic anhydride prepared separately from methoxyacetic acid and then triethylamine, and the mixture was stirred for one hour at room temperature. The reaction mixture was then treated in the same manner as described in Example 7 whereby 259 mg (yield: 89.6%) of the title compound was obtained as colorless needle crystals.

reactant | 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 180 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C25H34O5S
reactant | methoxyacetic anhydride | COCC(=O)OC(COC)=O | C6H10O5
reactant | methoxyacetic acid | COCC(=O)O | C3H6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 11β-Hydroxy-21-methoxyacetoxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 259 mg, yield: 89.6% | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(COC(COC)=O)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C28H38O7S
